US06797718B2
A sealed tube containing ammonium acetate (7.5 g) and 2-butyl-6,7-dimethyl-4-phenoxy-1-(2-phenoxyethyl)-1H-imidazo[4,5-c]pyridine (0.75 g) from Part C was heated in an oil bath to 150° C. for 48hours. The reaction reached 70% completion and was allowed to cool to room temperature. The reaction mixture was then dissolved in ethyl acetate and washed with a saturated aqueous solution of sodium bicarbonate. The organic layer was dried with magnesium sulfate and concentrated under reduced pressure. The product was passed through a silica gel column using 10/90 methanol/ethyl acetate as the eluant. To remove impurities, the product was recrystallized twice from acetonitrile with charcoal. The resulting white crystals were crushed and dried to yield 2-butyl-6,7-dimethyl-1-(2-phenoxyethyl)-1H-imidazo[4,5-c]pyridin-4-amine, m.p. 130.0-132.0° C.

reactant | ammonium acetate | 7.5 g | C(C)(=O)[O-].[NH4+]
reactant | 2-butyl-6,7-dimethyl-4-phenoxy-1-(2-phenoxyethyl)-1H-imidazo[4,5-c]pyridine | 0.75 g | C(CCC)C=1N(C2=C(C(=NC(=C2C)C)OC2=CC=CC=C2)N1)CCOC1=CC=CC=C1 | C26H29N3O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-butyl-6,7-dimethyl-1-(2-phenoxyethyl)-1H-imidazo[4,5-c]pyridin-4-amine | C(CCC)C=1N(C2=C(C(=NC(=C2C)C)N)N1)CCOC1=CC=CC=C1 | C20H26N4O
